US08486953B2
Preparation of 4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)aniline
Ammonium formate (1.11 g, 17.6 mmol) was added into a suspension of 4-(5-fluoro-2-nitrophenoxy)tetrahydro-2H-pyran (1 g, 4.14 mmol) and palladium on carbon (5%, 0.250 g) in MeOH (10 mL) at ambient temperature. The solution was stirred for 0.5 hours, filtered through Celite and washed with MeOH. The filtrate was concentrated in vacuo and triturated from diethyl ether to remove the ammonium formate by-products. The sample was purified by flash column chromatography (5:1 petroleum ether (40-60° C.)/EtOAc→1:1 petroleum ether (40-60° C.)/EtOAc) to yield yellow oil (0.666 g, 76%).

reactant | Ammonium formate | 17.6 mmol, 1.11 g | C(=O)[O-].[NH4+]
reactant | 4-(5-fluoro-2-nitrophenoxy)tetrahydro-2H-pyran | 4.14 mmol, 1 g | FC=1C=CC(=C(OC2CCOCC2)C1)[N+](=O)[O-] | C11H12FNO4
catalyst | palladium on carbon | 0.250 g | [Pd] | Pd
solvent | MeOH | 10 mL | CO | CH4O
product | 4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)aniline | 0.666 g, 76% | FC1=CC(=C(N)C=C1)OC1CCOCC1 | C11H14FNO2
